US04352818
A mixture of 1.1 g (4.5 mmol) of 4,5-dihydro-3-(hydroxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one, 0.3 ml (5.0 mmol) of methyl iodide and 10 ml of dry dimethylformamide is treated with 0.2 g (4.5 mmol) of sodium hydride (55 percent oil dispersion, washed with n-hexane) and the mixture is stirred at room temperature for about 16 hours. The mixture is poured into 70 ml of water and extracted three times with chloroform. The chloroform solution is washed once with water, dried over magnesium sulphate and evaporated. The crude product is chromatographed on silica gel while eluting with chloroform containing 5% of methanol. Recrystallization of the material obtained from ethyl acetate/hexane yields 4,5-dihydro-3-(methoxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 115°-116°.

reactant | 4,5-dihydro-3-(hydroxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 4.5 mmol, 1.1 g | OCC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C13H13N3O2
reactant | methyl iodide | 5.0 mmol, 0.3 ml | CI | CH3I
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 4.5 mmol, 0.2 g | [H-].[Na+]
solvent | water | 70 ml | O | H2O
product | 4,5-dihydro-3-(methoxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | COCC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C14H15N3O2
